US04408057
A stirred solution of 0.70 g (0.004 mole) of 4-amino-2-indanyl acetate and 0.56 g (0.004 mole) of 2,5-dimethoxytetrahydrofuran in 1.5 mL of acetic acid was heated under reflux for 3 hours. The reaction mixture was cooled to ambient temperature and poured into 30 mL of chloroform. The mixture was stirred with 30 mL of an aqueous saturated solution of sodium chloride. The organic layer was removed, and the aqueous layer extracted with two portions of 30 mL each of chloroform. The combined organic phases were washed with two portions of 30 mL each of an aqueous saturated solution of sodium chloride. The organic layer was dried over potassium carbonate, filtered, and the filtrate concentrated under reduced pressure to give 0.89 g of 4-(1-pyrrolyl)-2-indanyl acetate.

reactant | 4-amino-2-indanyl acetate | 0.004 mole, 0.70 g | C(C)(=O)OC1CC2=CC=CC(=C2C1)N | C11H13NO2
reactant | 2,5-dimethoxytetrahydrofuran | 0.004 mole, 0.56 g | COC1OC(CC1)OC | C6H12O3
reactant | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | 4-(1-pyrrolyl)-2-indanyl acetate | 0.89 g | C(C)(=O)OC1CC2=CC=CC(=C2C1)N1C=CC=C1 | C15H15NO2
